US04956382
(A) 2-Hydroxymethyl-3-methyl-5-nitrobenzofuran
1 Molar diborane in tetrahydrofuran (18.0 ml, 18.0 mmole) was added dropwise to a suspension of 3-methyl-5-nitrobenzofuran-2-carboxylic acid (1.1 g, 5 mmole) in tetrahydrofuran at 0°. Stirring was continued at 0° for 30 minutes then at room temperature for 18 hours when a second portion of diborane (5.0 ml) was added and the reaction mixture was subjected to ultrasound for 2.5 hours. Methanol was then added cautiously to the reaction mixture and the solvent was removed by evaporation. The residue was taken up in ethyl acetate, washed with aqueous sodium bicarbonate, dried (MgSO4), the solvent removed by evaporation in vacuo and purified by column chromatography on silica eluting with methylene chloride. The product-containing fractions were combined and evaporated to give the title compound, yield 0.96 g. A sample was recrystallised from ethyl acetate, m.p. 149°-150°.

reactant | diborane | 1 Molar | B#B | B2
reactant | 3-methyl-5-nitrobenzofuran-2-carboxylic acid | 5 mmole, 1.1 g | CC1=C(OC2=C1C=C(C=C2)[N+](=O)[O-])C(=O)O | C10H7NO5
reactant | diborane | 5.0 ml | B#B | B2
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18.0 mmole, 18.0 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-3-methyl-5-nitrobenzofuran | OCC=1OC2=C(C1C)C=C(C=C2)[N+](=O)[O-] | C10H9NO4
